US09290468B2
To a solution of 2,3,4-trifluorobromobenzene in appropriate solvent (include aliphatic and aromatic hydrocarbon (such as pentane, hexane, heptane, cyclohexane, petroleum ether, petrol, gasoline, benzene, toluene, xylene), ether (such as diethyl ether, dibutyl ether, glycol dimethyl ether, 2-methoxyethyl ether, tetrahydrofuran, dioxane), sulfolane, HMPA, DMPU, prefer anhydrous THF, ethyl ether and dioxane) was added strong base (such as LDA, nBuLi, LiHDMS) at low temperature (−50-−80° C., prefer −78° C.) under nitrogen atmosphere. The reaction is kept stirring for some time (0.5-12 h, prefer 0.5-2 h) and is added dry ice. After several hours (3-12 h, prefer 5-10 h), 5-bromo-2,3,4-trifluorobenzoic acid is obtained after conventional workup.

reactant | 2,3,4-trifluorobromobenzene | FC1=C(C=CC(=C1F)F)Br | C6H2BrF3
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | nBuLi | [Li]CCCC
reactant | dry ice | C(=O)=O | CO2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | ether | CCOCC | C4H10O
product | 5-bromo-2,3,4-trifluorobenzoic acid | BrC=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2BrF3O2
